US05567822
A mixture of 0.4 g of 2-chloro-7-nitro-6-trifluoromethoxybenzothiazole and 10 cm3 of 33% aqueous ammonium hydroxide solution in 30 cm3 of ethanol is heated at 110° C. in an autoclave for 5 hours. The mixture is cooled and the solvent is evaporated off under reduced pressure (2.7 kPa). After purification by flash chromatography on silica with a cyclohexane/ethyl acetate mixture (4/6 by volume) as eluent, 0.22 g of 2-amino-7-nitro-6-trifluoromethoxybenzothiazole is obtained, melting at 180° C.

reactant | 2-chloro-7-nitro-6-trifluoromethoxybenzothiazole | 0.4 g | ClC=1SC2=C(N1)C=CC(=C2[N+](=O)[O-])OC(F)(F)F | C8H2ClF3N2O3S
reactant | ammonium hydroxide | 10 cm3 | [OH-].[NH4+]
solvent | ethanol | 30 cm3 | C(C)O | C2H6O
product | 2-amino-7-nitro-6-trifluoromethoxybenzothiazole | 0.22 g | NC=1SC2=C(N1)C=CC(=C2[N+](=O)[O-])OC(F)(F)F | C8H4F3N3O3S
